US09382243B2
Step A. 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((3R,5S,6R)-5-((triethylsilyl)oxy)-6-(((triethylsilyl)oxy)methyl)tetrahydro-2H-pyran-3-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine
To a stirred solution of (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol (256 mg, 0.566 mmol) and triethylamine (0.40 mL, 287 mg, 2.83 mmol) in anhydrous DMF (3.0 mL) under nitrogen at 0° C. was added TESCl (0.38 mL, 342 mg, 2.266 mmol), dropwise over 1 minute. The mixture was allowed to stir at room temperature for 2.5 hours, then poured into saturated aqueous sodium bicarbonate (40 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (40 mL), dried over sodium sulfate, and concentrated under reduced pressure. After drying under high vacuum for 1 hour, the resultant clear oil was dissolved in anhydrous DMF (3.0 mL). To this solution was added triethylamine (0.16 mL, 115 mg, 1.133 mmol) and SEMCl (0.12 mL, 113 mg, 0.680 mmol). After stirring at room temperature for 30 minutes, the mixture was poured into saturated aqueous sodium bicarbonate (40 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (40 mL), dried over sodium sulfate, and concentrated under reduced pressure to provide the desired product as a yellow oil. LC-MS: calculated for C42H64ClN3O5Si3 809.38, observed m/e: 810.46 (M+H)+ (Rt 3.80/4 min).

reactant | (2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxymethyl)tetrahydro-2H-pyran-3-ol | 0.566 mmol, 256 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O)Cl)C2=CC=CC=C2 | C24H22ClN3O4
reactant | triethylamine | 2.83 mmol, 0.40 mL, 287 mg | C(C)N(CC)CC | C6H15N
reactant | TESCl | 2.266 mmol, 0.38 mL, 342 mg | [Si](CC)(CC)(CC)Cl | C6H15ClSi
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
reactant | triethylamine | 1.133 mmol, 0.16 mL, 115 mg | C(C)N(CC)CC | C6H15N
reactant | SEMCl | 0.680 mmol, 0.12 mL, 113 mg | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((3R,5S,6R)-5-((triethylsilyl)oxy)-6-(((triethylsilyl)oxy)methyl)tetrahydro-2H-pyran-3-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@H]2CO[C@@H]([C@H](C2)O[Si](CC)(CC)CC)CO[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C42H64ClN3O5Si3
